US07759337B2
A solution of dimethylamine (2.0 M solution in THF, 17.2 mL, 34.5 mmol) was added to 5-bromo-2-chloro-4-methoxypyrimidine (1.540 g, 6.89 mmol) at RT. The reaction was heated to 45° C. for 30 min, then cooled and concentrated. The residue was washed and filtered with diethyl ether to give 1.57 g of 5-bromo-4-methoxy-N,N-dimethylpyrimidin-2-amine as a light yellow solid. ES+=232.0 (M+H)

reactant | dimethylamine | 34.5 mmol, 2.0 M, 17.2 mL | CNC | C2H7N
reactant | 5-bromo-2-chloro-4-methoxypyrimidine | 6.89 mmol, 1.540 g | BrC=1C(=NC(=NC1)Cl)OC | C5H4BrClN2O
product | 5-bromo-4-methoxy-N,N-dimethylpyrimidin-2-amine | 1.57 g | BrC=1C(=NC(=NC1)N(C)C)OC | C7H10BrN3O
